US08110584B2
2-Azabicyclo[2.2.2]oct-2-yl([2,1,3]-benzoxadiazol-5-yl)methanone
Cis-4-Aminocyclohexanecarboxylic acid (2.0 g 13.96 mmol) was heated in a flask with a heat gun for 15 minutes. After cooling to room temperature, THF (70 ml) was added followed by lithium aluminum hydride (4 g), slowly and portion wise, and the mixture heated at 65° C. for 1 h. The mixture was cooled, and hexane (70 ml) and sodium hydroxide solution (5 ml) were added whilst rapidly stirring. Celite (5 g) was added and the mixture stirred overnight. The solids were removed by filtration and washed with THF (10 ml). Triethylamine (4 ml) was added followed by a solution of [2,1,3]-benzoxadiazole-5-carbonylchloride (2.0 g, 10.95 mmol) in dichloromethane (15 ml) and the mixture was stirred at room temperature for 0.3 h. Water (100 ml) was added, acidified to pH 2 with sulfuric acid and extracted with ethyl acetate (2×100 ml). The combined organics were washed with saturated sodium bicarbonate solution (100 ml), dried (NaSO4) and evaporated under vacuum. The residue was chromatographed on silica gel eluting with ethyl acetate/dichloromethane/hexane (40:10:50) to give the desired product as a white solid (2.14 g): mp=138-139° C., LC-MS, MH+=258; 1H NMR (300 MHz, CDCl3, rotamers) δ 7.91 (dd, J=1.2 and 9.3 Hz, 1H), 7.90 and 7.83 (dd, J=1.2 and 1.2 Hz, total 1H), 7.51 and 7.46 (dd, J=1.2 and 9.3 Hz, total 1H), 4.58 and 3.42 (br s, total 1H), 3.68-2.64 (m, 2H), 2.12-1.61 ppm (m, 9H).

reactant | Cis-4-Aminocyclohexanecarboxylic acid | 13.96 mmol, 2.0 g | N[C@H]1CC[C@H](CC1)C(=O)O | C7H13NO2
reactant | lithium aluminum hydride | 4 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 5 ml | [OH-].[Na+]
reactant | [2,1,3]-benzoxadiazole-5-carbonylchloride | 10.95 mmol, 2.0 g | N=1ON=C2C1C=CC(=C2)C(=O)Cl | C7H3ClN2O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | Water | 100 ml | O | H2O
solvent | hexane | 70 ml | CCCCCC | C6H14
solvent | THF | 70 ml | C1CCOC1 | C4H8O
product | 2-Azabicyclo[2.2.2]oct-2-yl([2,1,3]-benzoxadiazol-5-yl)methanone | 2.14 g | C12N(CC(CC1)CC2)C(=O)C2=CC=1C(=NON1)C=C2 | C14H15N3O2
